US07585886B2
Ethyl 1-benzyl-4-methylpyrrolidine-3-carboxylate synthesized in accordance with the method of International Patent Publication WO 2000/15611 was reduced with lithium aluminum hydride in accordance with the method of International Patent Publication WO 2000/59502. Tert-butyldiphenylchlorosilane was added to a THF solution of the thus obtained (1-benzyl-4-methylpyrrolidin-3-yl)methanol, sodium hydride was added thereto under ice-cooling, and the mixture was stirred at room temperature for 2Hours. Thereafter, its work-up and purification were carried out in the standard method to obtain 1-benzyl-3-({[tert-butyl(diphenyl)silyl]oxy}methyl)-4-methylpyrrolidine. AP: 444.

reactant | Ethyl 1-benzyl-4-methylpyrrolidine-3-carboxylate | C(C1=CC=CC=C1)N1CC(C(C1)C)C(=O)OCC | C15H21NO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Tert-butyldiphenylchlorosilane | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | (1-benzyl-4-methylpyrrolidin-3-yl)methanol | C(C1=CC=CC=C1)N1CC(C(C1)C)CO | C13H19NO
reactant | sodium hydride | [H-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 1-benzyl-3-({[tert-butyl(diphenyl)silyl]oxy}methyl)-4-methylpyrrolidine | C(C1=CC=CC=C1)N1CC(C(C1)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C29H37NOSi
